US07067537B2
i) Production of 1-(4-methylpyridin-3-yl)propan-1-one
A solution of 4-methylnicotinonitrile (5.90 g) in diethyl ether (75 ml) was cooled to 5° C. and an ethylmagnesium bromide diethyl ether solution (3.0M, 25 ml) was gradually added thereto. The reaction mixture was heated under reflux for 2 hrs. and added to 1N hydrochloric acid (200 ml). The mixture was stirred at room temperature for 30 min. Sodium bicarbonate was added to neutralize the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was dried and concentrated, and the residue was subjected to silica gel column chromatography (eluent, hexane:ethyl acetate=3:1–2:1) for purification to give the title compound (5.07 g) as a pale-red oil.

reactant | 4-methylnicotinonitrile | 5.90 g | CC1=CC=NC=C1C#N | C7H6N2
reactant | hydrochloric acid | 1N, 200 ml | Cl | ClH
reactant | Sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | diethyl ether | 75 ml | C(C)OCC | C4H10O
product | 1-(4-methylpyridin-3-yl)propan-1-one | 5.07 g | CC1=C(C=NC=C1)C(CC)=O | C9H11NO
